US07589076B2
2-{3-[1-(Phenoxycarbonyl)piperidin-4-yl]propyn-1-yl}adenosine.
Batch: AB-9-97. Phenyl 4-(prop-2-ynyl)piperidine-1-carboxylate, batch JR28-11 (0.329 g, 1.352 mmol) was added to a solution of 2-iodoadenosine (0.513 g, 1.305 mmol) according to general procedure 2. Yield: 54.5 mg, 82%. 1H NMR (CD3OD) δ 8.30 (s, 1H), 7.38-7.06 (3×m, 5H), 5.94 (d, 1H), 4.71 (m, 1H), 4.32-4.17 (2×m, 7H), 3.92-3.72 (2×d, 2H), 3.10-2.90 (2×bt, 4H), 2.48 (d, 5H), 1.93 (2×m, 5H). m/z MH+=509.18. HPLC rt=5.3 min.

reactant | Phenyl 4-(prop-2-ynyl)piperidine-1-carboxylate | C(C#C)C1CCN(CC1)C(=O)OC1=CC=CC=C1 | C15H17NO2
reactant | 2-iodoadenosine | 1.305 mmol, 0.513 g | IC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12IN5O4
product | 2-{3-[1-(Phenoxycarbonyl)piperidin-4-yl]propyn-1-yl}adenosine | O(C1=CC=CC=C1)C(=O)N1CCC(CC1)CC#CC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C25H28N6O6
